US06380288B1
Synthesis of 1-benzoylsemicarbazide
A four neck flask (1000 ml) equipped with a thermometer and a stirrer was charged with 78.2 g (0.75 mol) of 35% hydrochloric acid and 700 ml of deionized water. Added thereto was 68.0 g (0.5 mol) of benzohydrazide at room temperature (20° C.) while stirring, and then 60.7 g (0.75 mol) of potassium cyanate was gradually added in 30 minutes. Stirring was continued at 30° C. for one hour, and then crystal was filtered off and washed with 200 ml of deionized water. This was dried under reduced pressure to obtain white crystal.

reactant | hydrochloric acid | 0.75 mol, 78.2 g | Cl | ClH
reactant | benzohydrazide | 0.5 mol, 68.0 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | potassium cyanate | 0.75 mol, 60.7 g | [O-]C#N.[K+]
solvent | water | 700 ml | O | H2O
product | 1-benzoylsemicarbazide | C(C1=CC=CC=C1)(=O)NNC(=O)N | C8H9N3O2
